US07608713B2
Preparation of 3-(di(iso-butyl)phosphino)cyclohexan-1-one
A 250 ml round-bottomed flask fitted with a condenser, nitrogen purge, and addition funnel was charged with 29.9 g (0.3 mol) 2-cyclohexen-1-one and heated to 45° C. with stirring. Di-(iso-butyl)phosphine (28.8 g, 0.2 mol) was gradually added to the flask via the addition funnel, over a period of 0.5 hour. When addition was complete, the temperature of the contents of the flask was slowly raised to 70° C. and maintained at that temperature for 3 hours, then cooled. Unreacted starting materials were removed by evaporation under reduced pressure at 120° C.

reactant | 2-cyclohexen-1-one | 0.3 mol, 29.9 g | C1(C=CCCC1)=O | C6H8O
reactant | Di-(iso-butyl)phosphine | 0.2 mol, 28.8 g | C(C(C)C)PCC(C)C | C8H19P
product | 3-(di(iso-butyl)phosphino)cyclohexan-1-one | C(C(C)C)P(C1CC(CCC1)=O)CC(C)C | C14H27OP
